US06384167B2
Into a 250 mL round-bottom flask were placed 18.72 g (0.17 mol) of 1,3-dihydroxybenzene (resorcinol) and 75 mL of DMSO. The solution was purged with nitrogen gas for one hour followed by adding 223.62 mL of 1.52M (0.34 mol) KOH-water water solution dropwise to the solution, with the reaction flask resting in an ice-bath. The reaction mixture was then heated at 100° C. for one day followed by distilling off most of the water from the reaction solution. The rest of reaction solvents were evaporated slowly under vacuum. The salt was dried at 120° C. under the vacuum line for at least two days. Then 75 mL of dry DMSO and 109.2 g (0.42 mol) of 1,2-dibromo tetrafluoroethane was transferred to the flask via a closed system. The mixture was stirred at 35° C. for 3 days. The reaction mixture was filtered to remove the KBr, then the reaction mixture was washed with acetone in a 500 mL separatory funnel and the organic layer was diluted with 150 mL of methylene chloride. The combined organic layer was washed first with 10% of sodium bicarbonate water solution, and then with 0.01N HCl and finally with distilled water until neutral. The solution was dried over sodium sulfate overnight. After the removal of the sodium sulfate by filtration and the evaporation of the solvents, the crude product was purified by distillation under reduced pressure with an oil bath at a temperature of 100-110° C. A total of 64 g (0.136 mol) of 1,3-di(2-bromotetrafluoro ethoxy)benzene was obtained in 80.4% yield, which had a boiling point of 76-80° C. (at 10−2 torr). The amount of hydrogen by-product in the product was about 5.4%.

reactant | 1,3-dihydroxybenzene | 0.17 mol, 18.72 g | OC1=CC(=CC=C1)O | C6H6O2
reactant | KOH water water | 0.34 mol, 1.52M | [OH-].[K+].O.O
reactant | 1,2-dibromo tetrafluoroethane | 0.42 mol, 109.2 g | BrC(C(Br)(F)F)(F)F | C2Br2F4
solvent | DMSO | 75 mL | CS(=O)C | C2H6OS
solvent | DMSO | 75 mL | CS(=O)C | C2H6OS
product | 1,3-di(2-bromotetrafluoro ethoxy)benzene | 0.136 mol, 64 g, 80.4% yield | BrC(C(OC1=CC(=CC=C1)OC(C(Br)(F)F)(F)F)(F)F)(F)F | C10H4Br2F8O2
